Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][H:4],1.50499866769
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[O:7]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-1.41233442366
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8]>>[C:3]([H:4])([H:5])=[C:6][O:7][H:8].[O:1]=[C:2],-0.84568162207
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:6].[O:1][C:2]([H:3])([H:4])/[C:5]=[C:7](\[H:8])[O:9][H:10],5.03771992252
[O:1]=[C:2]1[C:3](=[C:4][H:5])[C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C@:6]([C:3]#[C:4][H:5])([H:7])[C:8]([H:9])([H:10])[H:11],-0.98772737044
[O:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:6].[O:1]=[C:2]([O:3][C:4]#[C:5])[C:7]([H:8])([H:9])[H:10],5.775381514279999
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[H:8]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6](=[O:7])[H:8],4.851693761080001
[C:2][O:3][H:4].[O:1]>>[O:1]=[C:2][O:3][H:4],-6.969110552999999
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-5.03993295
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:4]([H:5])(=[C:6]([H:7])[H:8])[H:12].[H:1][O:2]/[C:3]=[C:10](\[H:11])[C:13]([H:9])([H:14])[H:15],-0.23710820599
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.5994352104299998
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-1.6217865979799997
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6](=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:4]([H:5])/[C:6](=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3],4.97858108
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9][H:10].[H:1],5.54115974464
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-2.95052147085
[C:8]([H:9])[H:10].[H:1][C:2][C:3][C:4]#[C:5][C:6][H:7]>>[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])=[C:8]([H:9])[H:10],-7.47734448266
[H:1][C:2]=[C:3]([H:4])[C@:5]([O:6][H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10],0.92180517254
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],3.5085423552
[C:1][O:2][C:3]#[C:4].[O:5]=[C:6]([H:7])[H:8]>>[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8],-0.32330964938
[H:1][C:2]1[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:11]([O:10][C:8][H:9])([H:12])[H:13],4.43238286026
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]#[C:5],6.052060728380001
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:3]([H:4])([H:5])=[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][O:2],3.78904482071
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4][H:5],4.7442798150300005
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.03508947261
[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.14464731878
[C:14]([H:15])([H:16])[H:17].[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12][H:13]>>[H:1]/[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12](/[H:13])[C:14]([H:15])([H:16])[H:17],-4.91092871314
[H:1][C:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4][H:5],7.87554305911
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5]1/[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[H:14],-2.65018469915
[C:1]#[C:2][H:3].[C:4]([O:5])(=[O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([H:3])[C:4]([O:5])([O:6])[C:7]([H:8])([H:9])[H:10],0.8972769698209999
